US07816380B2
Benzyl 4-fluoro-1-hydroxycyclohex-3-ene-1-carboxylate (0.554 g, 2.21 mmol) was dissolved in 27.5 mL of a 4:1 solution of THF:deionized water. A solution of 1 N NaOH was added to the reaction mixture. After stirring for 1.5 hours, the reaction mixture was acidified with 6 N HCl and extracted with EtOAc three times. The organic extracts were combined, washed with water, dried over sodium sulfate, filtered and concentrated to give 4-fluoro-1-hydroxycyclohex-3-ene-1-carboxylic acid as an oil.

reactant | Benzyl 4-fluoro-1-hydroxycyclohex-3-ene-1-carboxylate | 2.21 mmol, 0.554 g | FC1=CCC(CC1)(C(=O)OCC1=CC=CC=C1)O | C14H15FO3
reactant | water | O | H2O
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-fluoro-1-hydroxycyclohex-3-ene-1-carboxylic acid | FC1=CCC(CC1)(C(=O)O)O | C7H9FO3
